US08314098B2
(Step 2): 5-Chloro-2-(4-methylphenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine
There was dissolved, in 1,4-dioxane (5 mL), 5,7-dichloro-2-(4-methylphenyl)-pyrazolo[1,5-a]pyrimidine (259 mg, 0.930 mM), morpholine (162 μL, 1.86 mM) was added to the resulting solution and then the mixture was stirred at room temperature for 15 minutes. The solvent was distilled off from the reaction mixture, the residue thus obtained was diluted with water and then extracted with methylene chloride. The extracts thus obtained were combined, dried over anhydrous sodium sulfate, the solvent was distilled off and the resulting solid was washed with methanol to thus give the title compound (274 mg, yield: 90%).

reactant | 5,7-dichloro-2-(4-methylphenyl)-pyrazolo[1,5-a]pyrimidine | 0.930 mM, 259 mg | ClC1=NC=2N(C(=C1)Cl)N=C(C2)C2=CC=C(C=C2)C | C13H9Cl2N3
reactant | morpholine | 1.86 mM, 162 μL | N1CCOCC1 | C4H9NO
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 5-Chloro-2-(4-methylphenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 274 mg, yield: 90% | ClC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C2=CC=C(C=C2)C | C17H17ClN4O
